US05145869
Into a solution of methyl 5-(4-acetylphenylthio)-4-(N,N-dipentylcarbamoyl)pentanoate (0.44 g) in dry dichloromethane (10 ml) were added portions of m-chloroperbenzoic acid (80%, 0.52 g) with stirring at 0° C. After stirring at room temperature for 2 hours, sodium sulfite was added. The reaction mixture was washed with a saturated sodium bicarbonate solution and water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica by eluting with chloroform/ethanol (10:1) to give 0.45 g of methyl 5-(4-acetylphenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate as an oil.

reactant | methyl 5-(4-acetylphenylthio)-4-(N,N-dipentylcarbamoyl)pentanoate | 0.44 g | C(C)(=O)C1=CC=C(C=C1)SCC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C25H39NO4S
reactant | m-chloroperbenzoic acid | 0.52 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 5-(4-acetylphenylsulfonyl)-4-(N,N-dipentylcarbamoyl)pentanoate | 0.45 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)CC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C25H39NO6S
